US07566699B2
4-(β-D-Glucopyranosyloxy)-3-[2-(4-{2-[2-hydroxy-1-(hydroxymethyl)-1-(methyl)ethylamino]ethoxy}phenyl)ethyl]benzofuran
The title compound was prepared in a similar manner to that described in Example 21 using 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-[4-(2-hydroxyethoxy)phenyl]ethyl)benzofuran and 2-amino-2-methyl-1,3-propanediol instead of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(3-hydroxypropoxy)phenyl]ethyl}benzofuran and 2-aminoethanol, respectively.

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-[4-(2-hydroxyethoxy)phenyl]ethyl)benzofuran | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)OCCO | C32H36O13
reactant | 2-amino-2-methyl-1,3-propanediol | NC(CO)(CO)C | C4H11NO2
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 4-(β-D-Glucopyranosyloxy)-3-[2-(4-{2-[2-hydroxy-1-(hydroxymethyl)-1-(methyl)ethylamino]ethoxy}phenyl)ethyl]benzofuran | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)OCCNC(CO)(C)CO | C28H37NO10
